US09193692B2
D. 4-Bromo-2-fluoro-3-methylbenzamide
4-Bromo-2-fluoro-3-methylbenzonitrile (11 g, 51.4 mmol) in a 100 mL mixture of TFA-sulfuric acid (4:1, V/V) was stirred at 40° C. for 16 h. After complete conversion of starting material, the reaction mixture was poured into iced-cold water. The resulting solid was filtered off and washed with water and dried to give the desired product (11.24 g, 48.4 mmol, 94% yield) as a white solid. MS (ESI) m/z 234.1 [M+2]+.

reactant | 4-Bromo-2-fluoro-3-methylbenzonitrile | 51.4 mmol, 11 g | BrC1=C(C(=C(C#N)C=C1)F)C | C8H5BrFN
reactant | TFA sulfuric acid | C(=O)(C(F)(F)F)O.S(O)(O)(=O)=O
solvent | water | O | H2O
product | 4-Bromo-2-fluoro-3-methylbenzamide | 48.4 mmol, 11.24 g, 94% yield | BrC1=C(C(=C(C(=O)N)C=C1)F)C | C8H7BrFNO
